US04543362
Preparation of 3-(p-chlorophenoxy)-lactic acid
A mixture of 1.8 g (14.7 mmoles)3-chlorolactic acid and 3.4 g p-chlorophenol in 15 ml 3.3 N sodium hydroxide was stirred under reflux for two hours. The mixture was cooled to room temperature and acidified to pH=3, with concentrated hydrochloric acid. The resulting white crystals were filtered and dissolved in hot water and the hot solution was adjusted to pH=1 with concentrated sulfuric acid. Upon cooling the product, 3-(p-chlorophenoxy)-lactic acid was collected as clear crystals, 0.7 g, m.p. 135° to 136° C.; Edelson, et al. Biochem Pharmacol 18, 2331 (1969) reported m.p. 137° to 138° C.

reactant | 3-chlorolactic acid | 14.7 mmoles, 1.8 g | ClCC(C(=O)O)O | C3H5ClO3
reactant | p-chlorophenol | 3.4 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 3.3 N, 15 ml | [OH-].[Na+]
product | 3-(p-chlorophenoxy)-lactic acid | ClC1=CC=C(OCC(C(=O)O)O)C=C1 | C9H9ClO4
